US04731358
0.75 g of 3-amino-β-carboline are dissolved in 85 ml of 6-molar sulfuric acid and at 0° C. mixed with a solution of 0.435 g of sodium nitrite in 10 ml of water. The reaction mixture is stirred for an hour at 0° C. and then added drop by drop to 320 ml of boiling 2-molar sulfuric acid and then refluxed for another 20 minutes. After standing overnight, the product is neutralized with sodium hydroxide and extracted with a mixture consisting of 10 parts of ethyl acetate and one part of ethanol. The ethyl acetate extract is washed once with water, dried and evaporated. The evaporation residue is recrystallized from dimethylformamide. Thus 0.2 g of 3-hydroxy-β-carboline are obtained

reactant | 3-amino-β-carboline | 0.75 g | NC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H9N3
reactant | sodium nitrite | 0.435 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 6-molar, 85 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
solvent | sulfuric acid | 2-molar | S(O)(O)(=O)=O | H2O4S
product | 3-hydroxy-β-carboline | 0.2 g | OC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H8N2O
